US05350748
A solution of 3-(1-methylethoxy)-2-benzofurancarboxylic acid (250 mg, 1.14 mmol) and 1,1'-carbonyldiimidazole (240 mg, 1.48 mmol) in 7 mL of tetrahydrofuran is heated at reflux for 1 hour. The reaction solution is cooled to room temperature and i-propylamine (0.58 mL, 6.84 mmol) is added and the reaction mixture is stirred at room temperature for 30 minutes. The reaction is diluted with ethyl acetate and washed with brine. The organic phase is dried over magnesium sulfate, filtered, and concentrated in vacuo. Chromatography eluting with ethyl acetate:hexane (1:2 to 1:1) provides 3-(1-methylethoxy)-N-(1-methylethyl)-2-benzofurancarboxamide in 72% yield as a yellow oil.

reactant | 3-(1-methylethoxy)-2-benzofurancarboxylic acid | 1.14 mmol, 250 mg | CC(C)OC1=C(OC2=C1C=CC=C2)C(=O)O | C12H12O4
reactant | 1,1'-carbonyldiimidazole | 1.48 mmol, 240 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | i-propylamine | 6.84 mmol, 0.58 mL | C(C)(C)N | C3H9N
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1-methylethoxy)-N-(1-methylethyl)-2-benzofurancarboxamide | 72% yield | CC(C)OC1=C(OC2=C1C=CC=C2)C(=O)NC(C)C | C15H19NO3
